US07153622B2
Then 10 parts of the above described immobilized enzyme was suspended in 480 parts of a 0.1M phosphate buffer (pH 7.0), then 10 parts of (R)-3-hydroxy-5-(4-fluorophenyl)valeryl CoA (prepared by a method described in Eur. J. Biochem., 250, 432–439 (1997) after obtaining 3-hydroxy-5-(4-fluorophenyl)valeric acid by hydrolyzing 3-hydroxyphenyl valeric acid ester obtained by a Reformatsky reaction) and one part of bovine serum albumin (Sigma) were added to the suspension, and this suspension was moderately shaken for two hours at 30° C.

reactant | phosphate | 0.1M, pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | (R)-3-hydroxy-5-(4-fluorophenyl)valeryl CoA | O[C@@H](CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)CCC1=CC=C(C=C1)F | C32H47FN7O18P3S
product | 3-hydroxy-5-(4-fluorophenyl)valeric acid | OC(CC(=O)O)CCC1=CC=C(C=C1)F | C11H13FO3
